US04954507
3-(2,4,5-TRIFLUOROPHENYL)-3-OXO-2-(((1,1-DIMETHYLETHYL)AMINO)METHYLENE)-PROPANOIC ACID ETHYL ESTER
Tert-butylamine (6.2 mL, 84.7 mmoles) was added to a solution of 13.15 g (43.5 mmoles) of 3-(2,4,5-trifluorophenyl)-3-oxo-2-(ethoxymethylene)-propanoic acid ethyl ester in 19 mL of dry ethanol at -15° C. After 5 minutes, the mixture was stirred at room temperature for one hour, and then concentrated to dryness. The crude residue (10.87 g) was crystallized from 25 mL of hexane to afford 7.22 g of titled compound.

reactant | Tert-butylamine | 84.7 mmoles, 6.2 mL | C(C)(C)(C)N | C4H11N
reactant | 3-(2,4,5-trifluorophenyl)-3-oxo-2-(ethoxymethylene)-propanoic acid ethyl ester | 43.5 mmoles, 13.15 g | C(C)OC(C(C(=O)C1=C(C=C(C(=C1)F)F)F)=COCC)=O | C14H13F3O4
solvent | ethanol | 19 mL | C(C)O | C2H6O
product | 3-(2,4,5-TRIFLUOROPHENYL)-3-OXO-2-(((1,1-DIMETHYLETHYL)AMINO)METHYLENE)-PROPANOIC ACID ETHYL ESTER | 7.22 g | C(C)OC(C(C(=O)C1=C(C=C(C(=C1)F)F)F)=CNC(C)(C)C)=O | C16H18F3NO3
